datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C(/[C:11](=[CH:10]/[N+:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[O-:12])C=C1.C1C[C:20](=[O:21])CCO1>>C1=CC=C([C:11]([CH:10]([C:20]2([O-:21])CCOCC2)[N+:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)=[O:12])C=C1 10,11=10,20;12=11,12;20,21=21"
C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C28.CC[O:72][C:61]([S-:10])=[S:62]>>CC[O:72][C:61]([S:10][CH:20]([C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[S:62] 10=20
"CC1=CC(C)=C([N:12]2[C:11](=[CH2:10])[N:63](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:65]2)C(C)=C1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CC1=CC(C)=C([N+:12]2=[C:11]([CH2:10][CH:20]([CH:21]=[CH:22][N:23]3C(CC4=CC=CC=C4)C(=O)N(C)C3(C)C)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[N:63](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:65]2)C(C)=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[CH:10]=[CH:11][CH:62]=[CH:63]C1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]/[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)C2=C1C=CC=C2>>C[N:23]1C2=C(C=CC=C2)[C:21]([CH:20]([CH:10]2CCC[CH:63]=[CH:62][CH+:11]2)[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)=[CH:22]1 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CCCCN1C=C[N+:63]([CH2:62][C@@H:61]2CCC[NH:10]2)=C1>>CCCCN1C=C[N+:63]([CH2:62][C@@H:61]2CCC[NH+:10]2[CH:20]([C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)=C1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C/[N:10]=[C:11](/C(F)(F)F)[O-:12].F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[N:10]([C:11](C(F)(F)F)=[O:12])[C:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.[H:10][Si:11]([Cl:62])([CH3:72])[CH3:82]>>C1CC[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.[Si+:11]([Cl:62])([CH3:72])[CH3:82] 10,11=10,20;20,21=21,22;22,23=23"
"C[C:11]([H:10])(/[CH:12]=[CH:13]/C)/[CH:72]=[CH:73]/C.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1>>C[C:11](=[CH:12][CH+:13]C)/[CH:72]=[CH:73]/C.Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1.[H:10][Cl:20] 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
"C[C:32]1=[N+:21]([F:20])[C:42](C)=[CH:43][C:34](C)=[CH:33]1.C[N:10]1CCCC1>>C[C:32]1=[N:21][C:42](C)=[CH:43][C:34](C)=[CH:33]1.C[N+:10]1([F:20])CCCC1 10=20;20,21=21"
"C[C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[C+:11]([CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20"
"C[N:33](C)[C:22]([CH:21]=[CH2:20])=[O:23].[N:10]1=[CH:11][NH:12][CH:62]=[CH:61]1>>C[N:33](C)[C:22](=[CH:21][CH2:20][N:10]1[CH:11]=[NH+:12][CH:62]=[CH:61]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:22]2=[O:23].[H][N:10]=[C:11](C(F)(F)F)[O-:12]>>[H][N:10]([C:11](C(F)(F)F)=[O:12])[CH:20]([C:21]1=[C:22]([O-:23])C2=C(C=CC=C2)[C:32]1=[O:33])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72][P:61]([CH:10]=[C:11]([O-:12])[O:93]CC)(=[O:62])[O:82]CC.CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1>>CC[O:72][P:61]([CH:10]([C:11](=[O:12])[O:93]CC)[CH:20]([C-:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:41](C1=CC=CC=C1)(=[O:42])=[O:43])[C:51]1=[CH:52][CH:53]=[C:54](OC)[CH:56]=[CH:55]1)(=[O:62])[O:82]CC 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:63]1=[C:62]([BH2-:11][H:10])[N:73](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:65]=[CH:64]1.C[CH:20]=[N+:21]1C2=CC=CC=C2C2=C1C=CC=C2>>CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:63]1=[C:62]([BH2:11])[N:73](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:65]=[CH:64]1.C[CH:20]([H:10])[N:21]1C2=CC=CC=C2C2=C1C=CC=C2 10,11=10,20;20,21=21"
"C1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1.CO[C:94]1=[CH:93][CH:92]=[C:91]([C:10]2=[C:11]([O-:12])[O:62]C(C)(C)[O:83][C:72]2=[O:73])[CH:102]=[CH:103]1>>CO[C:94]1=[CH:93][CH:92]=[C:91]([C:10]2([CH:20]3[CH:21]=[C:22](C4=CC=CC=C4)[O:23][C:32]4=[C:31]3C=CC=C4)[C:11](=[O:12])[O:62]C(C)(C)[O:83][C:72]2=[O:73])[CH:102]=[CH:103]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
